US08183248B2
3. N-[4-(4-Ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-4-methyl-3-nitro-benzamide
Into a solution of 4-(4-Ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine (8.0 g, 27.9 mmol, 1.0 eq.) in dichloromethane (140 ml) is added diisopropylethyl amine (5.27 ml, 30.69 mmol, 1.1 eq.). The solution is cooled to 0° C., after which 4-Methyl-3-nitrobenzoylchloride (4.18 ml, 28.73 mmol, 1.03 eq.) is added in portions into the reaction mixture which is further equilibrated for 30 minutes. The reaction mixture is then partitioned between dichloromethane and water. The organic layer is separated and the aqueous layer is extracted with dichloromethane. The combined organic extracts are washed with water, dried over Na2SO4, filtered and concentrated to afford the desired product which is used in the next step without further purification.

reactant | 4-(4-Ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenylamine | 27.9 mmol, 8.0 g, 1.0 eq. | C(C)N1CCN(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C14H20F3N3
reactant | diisopropylethyl amine | 30.69 mmol, 5.27 ml, 1.1 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-Methyl-3-nitrobenzoylchloride | 28.73 mmol, 4.18 ml, 1.03 eq. | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | N-[4-(4-Ethyl-piperazin-1-ylmethyl)-3-trifluoromethyl-phenyl]-4-methyl-3-nitro-benzamide | C(C)N1CCN(CC1)CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O)C(F)(F)F | C22H25F3N4O3
